US07572805B2
Part F. (±)-trans-Methyl 1-benzyl-4-(3-chloro-2-(ethoxycarbonyl)-5-propylphenyl)pyrrolidine-3-carboxylate
To a solution of (E)-ethyl 2-chloro-6-(3-methoxy-3-oxoprop-1-enyl)-4-propylbenzoate (0.92 g, 2.96 mmol) in 20 mL of CH2Cl2 was added N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (0.77 g, 3.25 mmol) and trifluoroacetic acid (0.045 mL, 0.6 mmol). The solution was allowed to stir at 40° C. for 2 h. Starting material still remained by TLC analysis and so additional N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (0.1 g, 0.4 mmol) and trifluoroacetic acid (2 drops) were added and the reaction was stirred at 40° C. for an additional 30 min and then at ambient temperature for 18 h. The reaction was quenched with sat'd aq NaHCO3 and extracted with EtOAc. The organics were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (230-400 mesh silica gel, 6:1 hexane/EtOAc) to afford 1.17 g (90%) of the title compound as an oil. LRMS (ES)+: 444.25/446.24 (M+H)+.

reactant | (E)-ethyl 2-chloro-6-(3-methoxy-3-oxoprop-1-enyl)-4-propylbenzoate | 2.96 mmol, 0.92 g | ClC1=C(C(=O)OCC)C(=CC(=C1)CCC)\C=C\C(=O)OC | C16H19ClO4
reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 3.25 mmol, 0.77 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | trifluoroacetic acid | 0.6 mmol, 0.045 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 0.4 mmol, 0.1 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | trifluoroacetic acid | 2 drops | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-trans-Methyl 1-benzyl-4-(3-chloro-2-(ethoxycarbonyl)-5-propylphenyl)pyrrolidine-3-carboxylate | 1.17 g, 90% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C(=CC(=C1)CCC)Cl)C(=O)OCC)C(=O)OC | C25H30ClNO4
